US04898949
3,3-Bis(4-fluoro-2-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal
To a solution of 1,1-bis(4-fluoro-2-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethene (1.6 g, 5.0 mmoles) in tetrahydrofuran at -70° C. was added butyl lithium (2.3 mL of 2.2M solution, 5.0 mmoles). After stirring for 0.25 hour, ethyl formate (0.44 g, 6.0 mmoles) was added and the mixture stirred for 2 hours. The reaction was quenched with 1N hydrochloric acid and the mixture was extracted with methylene chloride. The extracts were dried and concentrated in vacuo to give 1.0 g of the title compound; m.p.=135°-136° C.

reactant | 1,1-bis(4-fluoro-2-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethene | 5.0 mmoles, 1.6 g | FC1=CC(=C(C=C1)C(=CC1=NN=NN1C)C1=C(C=C(C=C1)F)C)C | C18H16F2N4
reactant | butyl lithium | 5.0 mmoles, 2.2M, 2.3 mL | C(CCC)[Li]
reactant | ethyl formate | 6.0 mmoles, 0.44 g | C(=O)OCC | C3H6O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,3-Bis(4-fluoro-2-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal | 1.0 g | FC1=CC(=C(C=C1)C(=C(C=O)C1=NN=NN1C)C1=C(C=C(C=C1)F)C)C | C19H16F2N4O
